US07432260B2
1-(4-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol [49].
By treatment of [4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine with 1-chloro-2-propanol. 1H-NMR (CDCl3) δ: 1.10 (d, 3H, J=6.0 Hz, CH3), 2.26-2.33 (m, 2H, CH2), 2.49-2.53 (m, 2H, CH2), 2.61 (s, 3H, CH3), 2.63 (s, 3H, CH3), 2.76-2.80 (m, 2H, CH2), 3.07-3.13 (m, 4H, CH2), 3.83 (m, 1H, CH), 6.81 (d, 1H, J=4.4 Hz, pyrimidinyl-H), 6.88 (d, 2H, J=8.8 Hz, Ph-H), 7.02 (brs, 1H, OH), 7.44 (d, 2H, J=8.8 Hz, Ph-H), 8.30 (d, 1H, J=4.4 Hz, pyrimidinyl-H).

reactant | [4-(2,4-dimethyl-thiazol-5-yl)-pyrimidin-2-yl]-(4-piperazin-1-yl-phenyl)-amine | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCNCC1 | C19H22N6S
reactant | 1-chloro-2-propanol | ClCC(C)O | C3H7ClO
product | 1-(4-{4-[4-(2,4-Dimethyl-thiazol-5-yl)-pyrimidin-2-ylamino]-phenyl}-piperazin-1-yl)-propan-2-ol | CC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)N1CCN(CC1)CC(C)O | C22H28N6OS
